Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Liver abscess
 
Major Surgical or Invasive Procedure:
Liver abscess aspiration 

 
History of Present Illness:
Ms. ___ is a lovely former ___ with a history
of UC s/p colectomy c/b chronic pouchitis, PSC and resultant
cirrhosis, sarcoidosis on hydroxychloroquine, with multiple
recent admissions for acute on chronic cholangitis c/b liver
microabscesses, who presents as a direct admission for enlarging
liver abscesses despite IV antibiotics
(ceftriaxone/metronidazole).

To recap her recent history, she was recently admitted ___
for acute cholangitis requiring plastic stent for stricture.
Cytology at that time with atypical crowded  granular epithelial
cells, some with mucinous changes in the background of acute
inflammation. She was treated with cefepime and flagyl for
presumed infectious cholangitis given leukocytosis, ultimately
completed 10 day course of ciprofloxacin + metronidazole.

She then was readmitted ___ for worsening RUQ pain. MRCP
revealed chronic sclerosing cholangitis with superimposed acute
cholangitis and development of few small abscesses, the largest
measuring 11 mm in the left lobe and 10 mm on the right lobe. 
She
underwent ERCP with stent removal. Previously dilated stricture
was not present.  Brushings were taken for cytology and FISH,
which were unremarkable and showed no evidence of malignancy. 
She
also had pouchoscopy which revealed an 8-mm polyp at ileoanal
anastomosis, which revealed inflammatory polyp on biopsy. She
ultimately was discharged with IV CTX 2g and metronidazole for 4
week course (end date to be ___. 

She had follow up with Dr. ___ on ___, and had repeat MRCP,
which revealed numerous liver microabscesses, many which have
increased in size, now measuring 2.7cm in L lobe of liver in
2.5cm abscess in R lobe as well as labs revealing worsening
transaminitis. She was then referred for direct admission for
consideration of diagnostic/ therapeutic tap of the largest
abscess.

Today, she shares that she has been feeling well since her last
discharge, with resolution of her abdominal pain. She has no
fevers or chills; no nausea. She continues to have chronic
diarrhea, ___ episodes a day, which she manages with loperamide;
this is improved from prior and recently has not noticed any
BRBPR. Denies any nausea/ vomiting. She notes that she would not
be in the hospital today had her hepatologist not called and
asked her to come in. She otherwise endorses a cough that is
intermittently productive of yellow sputum, that has been 
ongoing
for the past month or so; associated with some nasal congestion,
for which she takes guaifenesin-codeine and occasional Zyrtec
(which helps her runny nose).
 
Past Medical History:
- Ulcerative Colitis, s/p colectomy and ileoanal anastomosis, 
c/b
recurrent pouchitis  
- Primary Sclerosing Cholangitis 
- Sarcoidosis, with recurrent lower extremity ulcers  
- Carpal Tunnel Syndrome 
- History of DVT ___ years ago
- Osteoarthritis 

 
Social History:
___
Family History:
Mother: pulmonary sarcoidosis, appendiceal cancer, HTN, OSA    
 
Physical Exam:
VS: ___ 1528 Temp: 98.2 PO BP: 107/68 L Lying HR: 89 RR: 18
O2 sat: 97% O2 delivery: Ra  
GENERAL: NAD, thin middle aged Caucasian lady sitting 
comfortably
in bed
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM  
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly; surgical scar appears
well healed
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  

Discharge Exam
24 HR Data (last updated ___ @ 2359)
    Temp: 98.7 (Tm 99.2), BP: 120/72 (112-122/67-72), HR: 97
(88-101), RR: 18, O2 sat: 97% (96-99), O2 delivery: Ra, Wt: 97
lb/44 kg   
GEN: NAD
LUNGS: CTAB
HEART: RRR, nl S1, S2. No m/r/g.
ABD: NT/ND, normal bowel sounds.
EXTREMITIES: No edema. WWP. 
NEURO: AOx3. 
 
Pertinent Results:
Admission Labs:

___ 02:26PM BLOOD WBC-9.1 RBC-3.60* Hgb-10.5* Hct-33.3* 
MCV-93 MCH-29.2 MCHC-31.5* RDW-15.8* RDWSD-53.3* Plt ___
___ 02:26PM BLOOD Glucose-81 UreaN-12 Creat-0.5 Na-140 
K-4.2 Cl-109* HCO3-19* AnGap-12
___ 02:26PM BLOOD ALT-37 AST-66* LD(LDH)-148 AlkPhos-345* 
TotBili-1.0

Discharge Labs:

___ 06:18AM BLOOD WBC-9.4 RBC-3.44* Hgb-10.2* Hct-31.9* 
MCV-93 MCH-29.7 MCHC-32.0 RDW-16.0* RDWSD-54.7* Plt ___
___ 06:18AM BLOOD Glucose-82 UreaN-10 Creat-0.5 Na-141 
K-4.4 Cl-110* HCO3-20* AnGap-11
___ 06:18AM BLOOD ALT-29 AST-59* AlkPhos-360* TotBili-1.0
 
Brief Hospital Course:
Ms. ___ is a ___ y/o F with PMH significant for
of UC (s/p colectomy c/b chronic pouchitis), PSC and resultant
cirrhosis, sarcoidosis on hydroxychloroquine, with multiple
recent admission for acute on chronic cholangitis c/b liver
microabscesses, who presented as a direct admission for 
enlarging
liver abscess despite IV antibiotics as an outpatient 
(CTX/metronidazole). She underwent ___ guided aspiration of the 
liver abscess, which ultimately did not grow any bacteria on 
culture after >48 hours. She was empirically switched to 
ertapenem, and is to complete a ___s an outpatient 
as below.

TRANSITIONAL ISSUES:
===================
[ ] Patient will be placed on Ertapenem 1 g daily for 4 weeks
[ ] Patient will need MRI of abdomen with and without contrast 
in 3 weeks (___) to evaluate for interval change in abscesses 
(to be set up by Hepatology/Dr. ___
[ ] Weekly labs: Send to ___ CLINIC - FAX: ___ 
(CBC with differential, BUN, Cr, AST, ALT, Total Bili, ALK PHOS)
[ ] Patient will require infectious disease follow up in 3 weeks 
(can be scheduled on the day of MRI)
[ ] MRI T-spine obtained while hospitalized showed: Nonenhancing 
cystic lesion superficial to the ligamentum flavum at the level 
of T7 most likely representing a synovial cyst, without focal 
spinal canal or foraminal narrowing. This has slightly grown 
since the CT chest dated ___. Continued follow-up is 
recommended to document stability.

ACTIVE ISSUES:
=============
# Enlarging liver abcesses I/s/o recent acute cholangitis
# History of PSC
Patient with recurrent admissions for acute cholangitis in 
setting of PSC and biliary strictures, who presented with 
enlarging liver abscesses despite being on 
ceftriaxone/metronidazole for several weeks. She underwent ___ 
aspiration which did not reveal any bacteria on gram stain or 
culture. Infectious disease was consulted, who recommended 
switching from ceftriaxone and metronidazole to ertapenem 1 g 
daily for 4 weeks. They recommended a MRI with and without 
contrast in 3 weeks to reevaluate the abscesses before 
discussing discontinuation of antibiotic therapy.

# Cirrhosis (MELD 10):
In setting of PSC, ___ fibroscan Metavir Stage 3. Currently 
without evidence of HE, no history of ascites nor SBP, no EGD 
available in system. Follows with Dr ___ as an outpatient.

CHRONIC MANAGEMENT:
====================
# Sarcoidosis:
Known pulmonary and cutaneous involvement, seemingly well 
controlled at this time. Continued home Hydroxychloroquine 200mg 
BID.

# Chronic Diarrhea
Thought to be multifactorial in etiology, and attributable to 
history of ulcerative colitis, her hx of pouchitis, as well as
irritable bowel syndrome and bile salt malabsorption. Continued 
home loperamide 14 mg BID and codeine-guaifenesin.

# Vitamin D Deficiency
Continued 2000U vitamin D daily 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. CefTRIAXone 2 gm IV Q24H 
2. GuaiFENesin-CODEINE Phosphate ___ mL PO QHS:PRN cough 
3. Hydroxychloroquine Sulfate 200 mg PO BID 
4. LOPERamide 14 mg PO BID 
5. MetroNIDAZOLE 500 mg PO Q8H 
6. Ursodiol 250 mg PO BID 
7. Vitamin D ___ UNIT PO DAILY 
8. DAILY VITAMIN FORMULA-MINERALS (multivitamin with minerals) 1 
tablet oral DAILY 

 
Discharge Medications:
1.  Ertapenem Sodium 1 g IV 1X Duration: 1 Dose 
Please infusion 1 g daily for 28 days or per infectious disease 
instructions 
RX *ertapenem 1 gram 1 g IV once a day Disp #*42 Vial Refills:*0 

2.  DAILY VITAMIN FORMULA-MINERALS (multivitamin with minerals) 
1 tablet oral DAILY  
3.  GuaiFENesin-CODEINE Phosphate ___ mL PO QHS:PRN cough  
4.  Hydroxychloroquine Sulfate 200 mg PO BID  
5.  LOPERamide 14 mg PO BID  
6.  Ursodiol 250 mg PO BID  
7.  Vitamin D ___ UNIT PO DAILY  
8.Outpatient Lab Work
Weekly lab tests from ___
ICD-9 Z79.2 

CBC with differential, BUN, Cr, AST, ALT,
Total Bili, ALK PHOS

ALL LAB RESULTS SHOULD BE SENT TO:
ATTN: ___ CLINIC - FAX: ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses
==============
Liver abscess
PSC
Cirrhosis

Secondary Diagnoses
================
Sarcoidosis
Ulcerative Colitis
Vitamin D Deficiency

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,
  
It was a pleasure caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You came to the hospital because of enlarging liver abscesses

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You had one of the liver abscesses aspirated. It did not grow 
any new bacteria.
- Since your abscesses have gotten bigger, we have changed your 
antibiotics that you will receive outside the hospital 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments.  
- Continue to receive IV antibiotics every day after you leave 
the hospital. 

We wish you the best!  

Sincerely,  

Your ___ Team
 
Followup Instructions:
___